US05250547
A solution of 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.5 g, 1.53 mmol) in dichloromethane (10ml) and methyl isothiocyanate (0.11 g, 1.5 mmol) was stirred at room temperature for twenty six hours. The solvent was evaporated, and the residue washed with diethyl ether to give 0.34 g of 6-nitro-2,2-dimethyl-3-(N'-methylthioureido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 225° C.

reactant | 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 1.53 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CN)N2C(C=CC=C2)=O)C1 | C17H17N3O4
reactant | methyl isothiocyanate | 1.5 mmol, 0.11 g | CN=C=S | C2H3NS
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
product | 6-nitro-2,2-dimethyl-3-(N'-methylthioureido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.34 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNC(=S)NC)N2C(C=CC=C2)=O)C1 | C19H20N4O4S
